US07834051B2
(6S)-7-(tert-butyldimethylsilyloxy)-6-ethyl-5-azaspiro[2.4]heptan-4-one
To a solution of tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)butyl)cyclopropanecarboxylate (1.18 g) in methanol (20 mL) was added 10% palladium carbon (150 mg), and the mixture was stirred at room temperature for 18 hr under a hydrogen atmosphere and filtered. The filtrate was concentrated under reduced pressure and the residue was dissolved in methanol (20 mL). Sodium methoxide (230 mg) was added and the mixture was refluxed for 2.5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/2) to give the title compound as a colorless oil (yield: 397.8 mg, 60%).

reactant | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)butyl)cyclopropanecarboxylate | 1.18 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O[Si](C)(C)C(C)(C)C)C1(CC1)C(=O)OC(C)(C)C)CC | C26H43NO5Si
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium carbon | 150 mg | [C].[Pd]
product | (6S)-7-(tert-butyldimethylsilyloxy)-6-ethyl-5-azaspiro[2.4]heptan-4-one | yield: 397.8 mg, 60% | [Si](C)(C)(C(C)(C)C)OC1[C@@H](NC(C12CC2)=O)CC | C14H27NO2Si
